US08492378B2
6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-(4-methoxyphenyl)-1H-1,2,3-benzotriazole
To a mixture of 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N2-(4-methoxyphenyl)benzene-1,2-diamine (0.20 g, 0.49 mmol), 6 M hydrochloric acid (2.5 mL) and acetic acid (2.5 mL) was added an aqueous solution (0.25 mL) of sodium nitrite (41 mg, 0.59 mmol) at 0° C., and the obtained mixture was stirred at 0° C. for 30 min and at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=1/1) and recrystallized from hexane/ethyl acetate to give the title compound (51.2 mg, yield 25%) as colorless crystals.

reactant | 4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-N2-(4-methoxyphenyl)benzene-1,2-diamine | 0.49 mmol, 0.20 g | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=C(C(=CC1)N)NC1=CC=C(C=C1)OC | C23H21FN4O2
reactant | hydrochloric acid | 6 M, 2.5 mL | Cl | ClH
reactant | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.59 mmol, 0.25 mL, 41 mg | N(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-1-(4-methoxyphenyl)-1H-1,2,3-benzotriazole | 51.2 mg, yield 25% | FC=1C=C(C=CC1)CCC1=NN=C(O1)C=1C=CC2=C(N(N=N2)C2=CC=C(C=C2)OC)C1 | C23H18FN5O2
